US08802690B2
To a 2.5-5 mL microwave tube, was added 6-bromo-4-fluoro-1H-benzo[d]imidazole (160 mg, 0.744 mmol) suspended in de-gassed 1,4 dioxane (1.5 mL). To this was added trans-di(u-acetato)bis[o-(di-o-tolylphino)benzyl]di-palladium (II) (26 mg, 0.043 mmol) and molybdenum hexacarbonyl (100 mg, 0.38 mmol), along with sodium carbonate (237 mg, 2.23 mmol) dissolved in de-gassed water (2 mL). The mixture was stirred for 20 seconds and then heated at 155° C. in the microwave for 10 minutes, keeping the pressure under 16 bar. The vessel was vented before handling and left to stand overnight at room temperature. Water (2 mL) and ethyl acetate (3 mL) were added to the reaction, and then the mixture was filtered through Celite®. The filtrate was partitioned with ethyl acetate and separated. The aqueous fraction was washed with ethyl acetate once more and the combined organic layers were set aside. Another portion of water (5 mL) was added to the aqueous layer and acidified with 0.5 M HCl to pH 3; a brown precipitate was formed. The mixture was allowed to stand in the refrigerator at 4° C. for 1 hour. The mixture was filtered and washed with water to give 4-fluoro-1H-benzo[d]imidazole-6-carboxylic acid as a grey solid, (63% yield). 1H NMR (500 MHz, DMSO-d6) □ ppm 1299 (br. s., 1H) 8.47 (s, 1H) 8.02 (s, 1H) 7.52 (d, J=11.71 Hz, 1H).

reactant | 6-bromo-4-fluoro-1H-benzo[d]imidazole | 0.744 mmol, 160 mg | BrC=1C=C(C2=C(NC=N2)C1)F | C7H4BrFN2
reactant | sodium carbonate | 2.23 mmol, 237 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4 dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | molybdenum hexacarbonyl | 0.38 mmol, 100 mg | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
solvent | Water | 2 mL | O | H2O
product | 4-fluoro-1H-benzo[d]imidazole-6-carboxylic acid | 63% yield | FC1=CC(=CC=2NC=NC21)C(=O)O | C8H5FN2O2
